US08222248B2
To a solution of 3,4-diamino-N-(3,4-dimethyl-phenyl)-benzamide (102 mg) in DMSO (2 mL) were added 2,6-dimethyl-4-(2-oxo-2-pyrrolidin-1-yl-ethoxy)-benzaldehyde (116 mg) and FeCl3 (1.2 mL in 0.02M THF solution). The mixture was stirred in open air at ambient temperature overnight. The mixture was then diluted by water and extracted with EtOAc. The extracts were dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography (SiO2, EtOAc:Hexane=20:80 to 80:10) to give toluene-4-sulfonic acid 4-[6-(3,4-dimethyl-phenylcarbamoyl)-1H-benzoimidazol-2-yl]-3,5-dimethyl-phenyl ester: MS (m/z) 540 (M+1).

reactant | 3,4-diamino-N-(3,4-dimethyl-phenyl)-benzamide | 102 mg | NC=1C=C(C(=O)NC2=CC(=C(C=C2)C)C)C=CC1N | C15H17N3O
reactant | 2,6-dimethyl-4-(2-oxo-2-pyrrolidin-1-yl-ethoxy)-benzaldehyde | 116 mg | CC1=C(C=O)C(=CC(=C1)OCC(N1CCCC1)=O)C | C15H19NO3
reactant | water | O | H2O
reactant | DMSO | 2 mL | CS(=O)C | C2H6OS
product | toluene-4-sulfonic acid 4-[6-(3,4-dimethyl-phenylcarbamoyl)-1H-benzoimidazol-2-yl]-3,5-dimethyl-phenyl ester | CC=1C=C(C=CC1C)NC(=O)C=1C=CC2=C(NC(=N2)C2=C(C=C(C=C2C)OS(=O)(=O)C2=CC=C(C=C2)C)C)C1 | C31H29N3O4S
